US08633186B2
3-hydroxy-N-(4-methoxybenzyl)-2,2-dimethylpropanamide
Prepared as in Example 4c from 3-hydroxy-2,2-dimethylpropanoic acid and 4-methoxybenzylamine in 97% yield as a white solid. MS 238 (MH+).

reactant | 3-hydroxy-2,2-dimethylpropanoic acid | OCC(C(=O)O)(C)C | C5H10O3
reactant | 4-methoxybenzylamine | COC1=CC=C(CN)C=C1 | C8H11NO
product | 3-hydroxy-N-(4-methoxybenzyl)-2,2-dimethylpropanamide | 97% yield | OCC(C(=O)NCC1=CC=C(C=C1)OC)(C)C | C13H19NO3
